US04508803
N-methyl-N-p-fluorobenzyl-m-fluoroaniline was prepared from 26.3 grams (0.21 mole) of N-methyl-m-fluoroaniline, 30.6 grams (0.21 mole) p-fluorobenzyl chloride (Aldrich), 17.8 grams anhydrous sodium acetate and 0.18 grams iodine according to the procedure described in Example III. Yield 35.4 grams (72 percent), boiling point 131°-137° C. at 0.2 mmHg.

reactant | N-methyl-m-fluoroaniline | 0.21 mole, 26.3 grams | CNC1=CC(=CC=C1)F | C7H8FN
reactant | p-fluorobenzyl chloride | 0.21 mole, 30.6 grams | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | sodium acetate | 17.8 grams | C(C)(=O)[O-].[Na+]
reactant | iodine | 0.18 grams | II | I2
product | N-methyl-N-p-fluorobenzyl-m-fluoroaniline | CN(C1=CC(=CC=C1)F)CC1=CC=C(C=C1)F | C14H13F2N
